US05216134
4-Bromo-6,6'-dimethyl-2,2'-bipyridine (19)
6,6'-Dimethyl-4-nitro-2,2'-bipyridine-N-oxide (0.50 g, 2.0 mmoles) was dissolved in acetyl bromide (10.0 ml) and phosphorus tribromide (2.5 ml). After refluxing for 1.5 hours the mixture was poured into 100 g ice and the solution was neutralized with 30% sodium hydroxide solution. The mixture was extracted with chloroform, the chloroform phase was dried and evaporated. The product was purified by means of flash chromatography.

reactant | 6,6'-Dimethyl-4-nitro-2,2'-bipyridine-N-oxide | 2.0 mmoles, 0.50 g | CC=1C=C(C=C([N+]1[O-])C1=NC(=CC=C1)C)[N+](=O)[O-] | C12H11N3O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | acetyl bromide | 10.0 ml | C(C)(=O)Br | C2H3BrO
solvent | phosphorus tribromide | 2.5 ml | P(Br)(Br)Br | Br3P
product | 4-Bromo-6,6'-dimethyl-2,2'-bipyridine | BrC1=CC(=NC(=C1)C)C1=NC(=CC=C1)C | C12H11BrN2
